US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol), (R/S)-3-aminopropane-1,2-diol (9.51 mg, 0.104 mmol), 4-methylmorpholine (28.1 mg, 0.278 mmol), and HATU (34.4 mg, 0.090 mmol) were dissolved in DMF (1 mL). The mixture was stirred for 1 h and then purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 25 mL/min, 220 nM, product retention=28.9 min) to provide (R/S)-N-(2,3-dihydroxypropyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (15 mg, 0.022 mmol, 32.1% yield): LCMS=505.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.35 Hz), 7.50-7.81 (7 H, m), 5.15 (1 H, s), 3.65-3.79 (1 H, m), 3.41-3.52 (2 H, m), 3.23-3.39 (2 H, m); HPLC peak RT=7.9 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (R/S)-3-aminopropane-1,2-diol | 0.104 mmol, 9.51 mg | NCC(CO)O | C3H9NO2
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-(2,3-dihydroxypropyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.022 mmol, 15 mg, 32.1% yield | OC(CNC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O)CO | C23H19F3N4O6
